US08629137B2
Step 2: 2-fluoro-4-(4-methyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-benzonitrile
0.73 g (4.0 mmol) 4-cyano-3-fluoro-benzoic acid chloride, 0.60 g (4.0 mmol) 4-methyl-3H-benzoxazol-2-one and 2.1 g (16 mmol) aluminium trichloride were heated to 125° C. for 1.5 h with stirring. After cooling to RT the mixture was combined with ice water. The precipitate formed was suction filtered, washed with water and dried i. vac.

reactant | 4-cyano-3-fluoro-benzoic acid chloride | 4.0 mmol, 0.73 g | C(#N)C1=C(C=C(C(=O)Cl)C=C1)F | C8H3ClFNO
reactant | 4-methyl-3H-benzoxazol-2-one | 4.0 mmol, 0.60 g | CC1=CC=CC2=C1NC(O2)=O | C8H7NO2
reactant | aluminium trichloride | 16 mmol, 2.1 g | [Cl-].[Cl-].[Cl-].[Al+3]
product | 2-fluoro-4-(4-methyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-benzonitrile | FC1=C(C#N)C=CC(=C1)C(=O)C1=CC2=C(NC(O2)=O)C(=C1)C | C16H9FN2O3
